US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Example 6, making variations as required to replace ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate with ethyl 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 99% yield: mp 218-221° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.25-7.10 (m, 5H), 3.94-3.89 (m, 2H), 3.53-3.48 (m, 2H), 3.22 (t, J=6.9 Hz, 2H), 2.55 (t, J=7.5 Hz, 2H), 2.46 (s, 3H), 1.83-1.73 (m, 2H); MS (ES+) m/z 346.2 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | ethyl 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CCCC1=CC=CC=C1)=O | C19H23N3O3S
product | 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | 99% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCCC1=CC=CC=C1)=O | C17H19N3O3S
